US08106070B2
Palladium tetrakis(triphenylphosphine) (1.38 g, 1.20 mmol) was added to a degassed, ambient temperature solution of tert-butyl 2-(4-bromobenzyl)-2-{[(2-hydroxy-4,4-dimethylhexyl)amino]carbonyl}pyrrolidine-1-carboxylate (6.11 g, 12 mmol), 2-bromo-5-fluoropyridine (2.1 g, 12 mmol), and hexamethylditin (3.9 g, 12 mmol) in 1,4-dioxane (120 mL). After stirring at 110° C. overnight, potassium fluoride (50% on celite) was added and the solution was vigorously stirred for 1 h at ambient temperature. The mixture was filtered and the filtrate was washed with water, dried (magnesium sulfate), filtered and concentrated in vacuo. Chromatography over silica eluting with 0-50% ethyl acetate/hexane afforded tert-butyl 2-[4-(5-fluoropyridin-2-yl)benzyl]-2-{[(2-hydroxy-4,4-dimethylhexyl)amino]carbonyl}pyrrolidine-1-carboxylate.

reactant | tert-butyl 2-(4-bromobenzyl)-2-{[(2-hydroxy-4,4-dimethylhexyl)amino]carbonyl}pyrrolidine-1-carboxylate | 12 mmol, 6.11 g | BrC1=CC=C(CC2(N(CCC2)C(=O)OC(C)(C)C)C(=O)NCC(CC(CC)(C)C)O)C=C1 | C25H39BrN2O4
reactant | 2-bromo-5-fluoropyridine | 12 mmol, 2.1 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | hexamethylditin | 12 mmol, 3.9 g | C[Sn](C)C.C[Sn](C)C
reactant | potassium fluoride | [F-].[K+]
solvent | 1,4-dioxane | 120 mL | O1CCOCC1 | C4H8O2
catalyst | Palladium tetrakis(triphenylphosphine) | 1.20 mmol, 1.38 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | tert-butyl 2-[4-(5-fluoropyridin-2-yl)benzyl]-2-{[(2-hydroxy-4,4-dimethylhexyl)amino]carbonyl}pyrrolidine-1-carboxylate | FC=1C=CC(=NC1)C1=CC=C(CC2(N(CCC2)C(=O)OC(C)(C)C)C(=O)NCC(CC(CC)(C)C)O)C=C1 | C30H42FN3O4
